US07504403B2
1-(6-Phenethylamino-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one.
To a stirred mixture of 1-(6-chloro-pyrimidin-4-yl)-8-phenyl -1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one (0.158 mg, 0.47 mmol) and excess of K2CO3 in DMF (3 mL) was added phenethylamine (0.15 mL, 1.2 mmol). The overall reaction vessel was irradiated under microwave conditions at 150° C. for 10 min. After diluted with water and EtOAc, the organic layer was taken and the aqueous layer was extracted with EtOAc. The overall organic layers were washed with water, brine, and dried (Na2SO4). Filtration followed by evaporation gave the crude residue, which was washed with EtOAc/ether to provide the title compound as a light yellow solid. MS m/e 424 (M+H)+.

reactant | 1-(6-chloro-pyrimidin-4-yl)-8-phenyl -1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | 0.47 mmol, 0.158 mg | ClC1=CC(=NC=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C18H15ClN4O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | phenethylamine | 1.2 mmol, 0.15 mL | C(CC1=CC=CC=C1)N | C8H11N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(6-Phenethylamino-pyrimidin-4-yl)-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | C(CC1=CC=CC=C1)NC1=CC(=NC=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C26H25N5O
